US05877199
9-Benzyl-1-methylcarbazole-2-carbaldehyde
1.6 ml of a 1.5M solution of diisobutylaluminum hydride in hexane was added at -78° C. to a solution of 213 mg of ethyl 9-benzyl-1-methylcarbazole-2-carboxylate, as obtained in Example 28, in 5 ml of methylene chloride. The reaction mixture was stirred for 1 hour at this temperature, warmed to room temperature, and then stirred for a further 1 hour at room temperature. After this time, 0.1 ml of water, 0.1 ml of a 1N aqueous solution of sodium hydroxide and 0.3 ml of water were added successively to the reaction mixture. Precipitated crystals were filtered off and the filtrate was then concentrated by evaporation under reduced pressure. 187 mg of pyridinium dichromate and molecular sieve 4A, followed by 2 ml of methylene chloride, were added to 100 mg of the thus obtained residue. The resulting mixture was stirred for two hours at room temperature, filtered using Florisil (trade mark), and concentrated by evaporation under reduced pressure. The resulting residue was subjected to column chromatography using 2 g of silica gel with a 5:1 v/v mixture of hexane and ethyl acetate as the eluent, to yield 94 mg of the title compound as an amorphous solid.

reactant | diisobutylaluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | ethyl 9-benzyl-1-methylcarbazole-2-carboxylate | 213 mg | C(C1=CC=CC=C1)N1C2=CC=CC=C2C=2C=CC(=C(C12)C)C(=O)OCC | C23H21NO2
reactant | water | 0.1 ml | O | H2O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | water | 0.3 ml | O | H2O
solvent | hexane | CCCCCC | C6H14
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | 9-Benzyl-1-methylcarbazole-2-carbaldehyde | 94 mg | C(C1=CC=CC=C1)N1C2=CC=CC=C2C=2C=CC(=C(C12)C)C=O | C21H17NO
